US04234588
Ethyl 3-(2-chloro-5,6-dimethyl-3-pyridyl)acrylate (32.7 gZ) in ethanol (500 ml) was hydrogenated at 25°-30° and 344 kPa using palladium-on-charcoal catalyst (5%, 3 g). The mixture was filtered and the filtrate was evaporated to an oil which was partitioned between chloroform and 2 N hydrochloric acid. The aqueous phase was made basic with aqueous sodium hyroxide, extracted with chloroform and the chloroform extracts were evaporated to give ethyl 3-(5,6-dimethyl-3-pyridyl)propionate (21.8 g, 80%) as an oil.

reactant | Ethyl 3-(2-chloro-5,6-dimethyl-3-pyridyl)acrylate | ClC1=NC(=C(C=C1C=CC(=O)OCC)C)C | C12H14ClNO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 3 g | [Pd] | Pd
product | ethyl 3-(5,6-dimethyl-3-pyridyl)propionate | 21.8 g, 80% | CC=1C=C(C=NC1C)CCC(=O)OCC | C12H17NO2
